US07705027B2
5-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (1 eq) was dissolved in an. DCM and under a nitrogen atmosphere, was cooled to 0° C. 1M BCl3 in DCM (9 eq) was added dropwise and the solution was stirred for 30 minutes. Methanol (2 ml) was added and the reaction mixture was concentrated in vacuo. Purification of the sample by preparative LC/MS gave 5-(2,4-dihydroxy-5-isobutyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide as a white solid.

reactant | 5-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 1 eq | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)CC(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C41H45N3O5
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | BCl3 | 1M | B(Cl)(Cl)Cl | BCl3
reactant | DCM | 9 eq | C(Cl)Cl | CH2Cl2
solvent | Methanol | 2 ml | CO | CH4O
product | 5-(2,4-dihydroxy-5-isobutyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)CC(C)C)O)O | C27H33N3O5
